US05354755
Preparation of 4-(p-Chlorophenyl)semicarbazide
Hydrazine (0.83 mL, 26.4 mmol) is added dropwise to a solution of 4-chlorophenyl isocyanate (3.85 g, 25.1 mmol) in 1,2-dichloroethane. The reaction mixture is stirred overnight at room temperature and filtered. The filter cake is washed with ether and dried to give the title product as a white solid, 4.28 g, which is identified by 1HNMR spectral analysis.

reactant | Hydrazine | 26.4 mmol, 0.83 mL | NN | H4N2
reactant | 4-chlorophenyl isocyanate | 25.1 mmol, 3.85 g | ClC1=CC=C(C=C1)N=C=O | C7H4ClNO
solvent | 1,2-dichloroethane | ClCCCl | C2H4Cl2
product | 4-(p-Chlorophenyl)semicarbazide | ClC1=CC=C(C=C1)NC(NN)=O | C7H8ClN3O
